US09376398B2
(i) tert-butyl 2-(2,2,2-trifluoroethylamino)acetate
The subtitled compound was synthesized by the method of example 15 step (i) from tert-butyl bromoacetate (13.6 g) and 2,2,2-trifluoroethylamine (8.9 g). The sub-title compound (11 g) was obtained as a colourless oil; 1H NMR (300 MHz, CDCl3); 3.39 (2H, s), 3.20 (2H, q, J=9.4 Hz), 1.44 (9H, s).

reactant | tert-butyl bromoacetate | 13.6 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | 2,2,2-trifluoroethylamine | 8.9 g | FC(CN)(F)F | C2H4F3N
product | tert-butyl 2-(2,2,2-trifluoroethylamino)acetate | 11 g | FC(CNCC(=O)OC(C)(C)C)(F)F | C8H14F3NO2
